US07943622B2
Step 2. Synthesis of 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]oxazole
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(benzo[d]oxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt (74 mg, 0.14 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure. The material was dissolved in EtOAc (40 mL), washed with 1 N NaOH (2×20 mL) and brine (20 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. This gave 34.7 mg (79%) of the desired product as a thick yellow oil. LC-MS: RT=4.00 min, [M+H]+=311.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(benzo[d]oxazol-2-yl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate di-TFA salt | 0.14 mmol, 74 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.O1C(=NC2=C1C=CC=C2)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)benzo[d]oxazole | N1=CC(=CC=C1)OCC1N(CCNC1)C=1OC2=C(N1)C=CC=C2 | C17H18N4O2
